US07238724B2
(4-Amino-4-methyl-piperidin-1-yl)-pyridin-4-yl-methanone
To a stirred solution (4-methyl-1-(pyridine-4-carbonyl)-piperidin-4-yl)-carbamic acid benzyl ester (0.085 g, 0.24 mmol ) in acetonitrile (2.0 mL) at room temperature was added iodotrimethysilane (0.06 mL, 0.36 mmol). The reaction mixture was stirred at 50° C. for 30 minutes and concentrated under reduced pressure. The solid residue was washed with acetone and filtered to provide titled compound. MS (CI) m/z 220 (M+1)+; 1H NMR (300 MHz, DMSO-d6) δ ppm 8.89(d, 2H), 7.74(d, 2H), 4.04 (m, 2H, NH2), 3.42-3.25 (m, 4H), 1.77-1.45 (m, 4H), 1.42 (s, 3H).

reactant | (4-methyl-1-(pyridine-4-carbonyl)-piperidin-4-yl)-carbamic acid benzyl ester | 0.24 mmol, 0.085 g | C(C1=CC=CC=C1)OC(NC1(CCN(CC1)C(=O)C1=CC=NC=C1)C)=O | C20H23N3O3
reactant | iodotrimethysilane | 0.36 mmol, 0.06 mL | I[Si](C)(C)C | C3H9ISi
solvent | acetonitrile | 2.0 mL | C(C)#N | C2H3N
product | (4-Amino-4-methyl-piperidin-1-yl)-pyridin-4-yl-methanone | NC1(CCN(CC1)C(=O)C1=CC=NC=C1)C | C12H17N3O
